US05294637
To a 3 L 3-necked flask equipped with a mechanical stirrer and a thermometer was added 1 L of concentrated NH4OH (ca 30%) (14.8 moles). A solution of benzaldehyde (265 g, 2.50 mol) in 500 mL of 2-propanol was added in one portion. The mixture was stirred vigorously at ca 22° C. for 43 hours. The resulting slurry was filtered and the filter cake was washed with water (1 L). After drying in vacuo, 242.4 g of hydrobenzamide was obtained as a white solid (mp 100°-102° C.) for a 97.4% yield.

reactant | NH4OH | 14.8 moles, 1 L | [NH4+].[OH-]
reactant | benzaldehyde | 2.50 mol, 265 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | 2-propanol | 500 mL | CC(C)O | C3H8O
product | hydrobenzamide | 242.4 g, 97.4% yield | C1=CC=C(C=C1)/C=N/C(/N=C/C2=CC=CC=C2)C3=CC=CC=C3 | C21H18N2
